US08193228B2
n-Butyllithium (1.6 M in hexane) (0.60 mL, 0.96 mmol) was added to a −78° C. solution of 4-(2,2-dimethylpropyl)-N,N-dimethyl-1H-imidazole-1-sulfonamide (234 mg, 0.96 mmol) in tetrahydrofuran (10 mL). After stirring at −78° C. for 10 min, 2,2-difluoro-2-[4-(5-fluoropyridin-2-yl)phenyl]-N-methoxy-N-methylacetamide (296 mg, 0.96 mmol) was added and the reaction allowed to warm to ambient temperature, quenched with water and extracted with methylene chloride and ethyl acetate. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-50% ethyl acetate/hexane afforded 2-{difluoro[4-(5-fluoropyridin-2-yl)phenyl]acetyl}-4-(2,2-dimethylpropyl)-N,N-dimethyl-1H-imidazole-1-sulfonamide.

reactant | n-Butyllithium | 0.96 mmol, 1.6 M, 0.60 mL | C(CCC)[Li]
reactant | 4-(2,2-dimethylpropyl)-N,N-dimethyl-1H-imidazole-1-sulfonamide | 0.96 mmol, 234 mg | CC(CC=1N=CN(C1)S(=O)(=O)N(C)C)(C)C | C10H19N3O2S
reactant | 2,2-difluoro-2-[4-(5-fluoropyridin-2-yl)phenyl]-N-methoxy-N-methylacetamide | 0.96 mmol, 296 mg | FC(C(=O)N(C)OC)(C1=CC=C(C=C1)C1=NC=C(C=C1)F)F | C15H13F3N2O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-{difluoro[4-(5-fluoropyridin-2-yl)phenyl]acetyl}-4-(2,2-dimethylpropyl)-N,N-dimethyl-1H-imidazole-1-sulfonamide | FC(C(=O)C=1N(C=C(N1)CC(C)(C)C)S(=O)(=O)N(C)C)(C1=CC=C(C=C1)C1=NC=C(C=C1)F)F | C23H25F3N4O3S
